US05420131
N-(tert-butoxycarbonyl)-D-2-phenylglycine
To a cooled (ice bath) solution of D-2-phenylglycine (15 g, 99.2 mmol) in water (104 mL) and tetrahydrofuran (104 mL), was added 1N NaOH (104 mL). Keeping the flask in the ice bath, di-tert-butyl dicarbonate was added (22.75 g) and the reaction mixture was stirred at room temperature for 2 h. Tetrahydrofuran was evaporated and the resulting solution was extracted with chloroform at basic pH. After acidifying with 5N HCl and filtering the solid precipitated, 17.77 g of the title product was obtained as a white solid (yield: 71%).

reactant | D-2-phenylglycine | 99.2 mmol, 15 g | C1=CC=C(C=C1)[C@H](C(=O)O)N | C8H9NO2
reactant | NaOH | 1N, 104 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 104 mL | O | H2O
solvent | tetrahydrofuran | 104 mL | O1CCCC1 | C4H8O
product | N-(tert-butoxycarbonyl)-D-2-phenylglycine | 17.77 g | CC(C)(C)OC(=O)N[C@H](C1=CC=CC=C1)C(=O)O | C13H17NO4
